US07709496B2
(d) 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde
A solution of 6-hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine (330 mg, 1.68 mmole) in CH2Cl2 (30 mL) and THF (30 mL) was treated with MnO2 (730 mg, 8.40 mmole), and the mixture was stirred at RT. Additional MnO2 was added after 1 hr (730 mg, 8.40 mmole) and after 16 hr (300 mg, 3.45 mmole). After a total of 20 hr the mixture was filtered through kieselguhr and the filtrate was concentrated to dryness. The reside was triturated with 1:1 EtOAc/hexanes, collected, and dried to afford the title compound (180 mg, 55%) as a solid: MS (APCI−) m/e 195 (M−H)−.

reactant | 6-hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine | 1.68 mmole, 330 mg | OCC=1C=CC=2SCC(NC2N1)=O | C8H8N2O2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 8.40 mmole, 730 mg | O=[Mn]=O
product | 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | 180 mg, 55% | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
